US03992389
4-Benzamidopiperidine (2.4 g.) in ethanol (15 ml.) was added to hydroxymethylvinyl ketone (2.0 g.). An exothermic reaction occured and crystallisation occurred on cooling to give 2-(4-benzamidopiperidino)ethylhydroxymethyl ketone, m.p. 154°-155° C. (Found: C, 65.9; H, 7.7; N, 9.5; C16H22N2O3 requires C, 66.2; H, 7.6; N, 9.65%).

reactant | 4-Benzamidopiperidine | 2.4 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
reactant | hydroxymethylvinyl ketone | 2.0 g | OCC(=O)C=C | C4H6O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-(4-benzamidopiperidino)ethylhydroxymethyl ketone | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCC(O)C(=O)C(CCN1CCC(CC1)NC(C1=CC=CC=C1)=O)O | C31H42N4O5
